US04435406
To 13.5 g of 1,5,6,7-tetrahydroindeno(5,6-d)imidazole-2-thiol, suspended in 200 ml of alcohol, were added dropwise while stirring 5.9 g of sodium hydroxide in 100 ml of water and, after 30 minutes, 13.0 g of 5-methyl-2-chloromethyl-pyridine hydrochloride were added. The mixture was left to boil at reflux overnight, then evaporated and the residue was taken up in methylene chloride. This was washed neutral and, after drying over sodium sulfate, evaporated in vacuo. The residue, recrystallized from acetonitrile, gave 11.9 g (56.9% of theory) of 1,5,6,7-tetrahydro-2-[[(5-methyl-2-pyridyl)methyl]thio]indeno(5,6-d)imidazole of melting point 157°-158° C.

reactant | 1,5,6,7-tetrahydroindeno(5,6-d)imidazole-2-thiol | 13.5 g | N1C(=NC2=C1C=C1CCCC1=C2)S | C10H10N2S
reactant | sodium hydroxide | 5.9 g | [OH-].[Na+]
reactant | 5-methyl-2-chloromethyl-pyridine hydrochloride | 13.0 g | Cl.CC=1C=CC(=NC1)CCl
solvent | water | 100 ml | O | H2O
product | 1,5,6,7-tetrahydro-2-[[(5-methyl-2-pyridyl)methyl]thio]indeno(5,6-d)imidazole | 11.9 g, 56.9% | CC=1C=CC(=NC1)CSC1=NC2=C(N1)C=C1CCCC1=C2 | C17H17N3S
